US08071650B2
Di-2-pyridyl thionocarbonate (45 mg) was dissolved in methylenechloride (2 ml) and to the solution were added 4-t-butylbenzylamine (29 mg) and triethylamine (20 μl), followed by stirring at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure and the obtained residue was chromatographed on a silica gel column eluting with ethyl acetate/hexane (1/10) to yield 4-t-butylbenzylisothiocyanate (26 mg, 71%).

reactant | Di-2-pyridyl thionocarbonate | 45 mg | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | 4-t-butylbenzylamine | 29 mg | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | triethylamine | 20 μl | C(C)N(CC)CC | C6H15N
solvent | methylenechloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-t-butylbenzylisothiocyanate | 26 mg, 71% | C(C)(C)(C)C1=CC=C(CN=C=S)C=C1 | C12H15NS
